.include osu018.lib
m3 databar data net-_m3-pad1_ net-_m3-pad1_ pfet W=0.9u L=0.18u M=1
m1 databar data gnd gnd nfet W=0.36u L=0.18u M=1
m4  enbar en net-_m4-pad1_ net-_m4-pad1_ pfet W=0.9u L=0.18u M=1
m2  enbar en gnd gnd nfet W=0.36u L=0.18u M=1
v4 net-_m4-pad1_ gnd  dc 1.8V
v3 net-_m3-pad1_ gnd  dc 1.8V
m7  net-_m7-pad3_ enbar net-_m7-pad1_ net-_m7-pad1_ pfet W=0.9u L=0.18u M=1
m8  net-_m7-pad3_ databar bl net-_m7-pad1_ pfet W=0.9u L=0.18u M=1
m11  net-_m11-pad3_ enbar net-_m11-pad1_ net-_m11-pad1_ pfet W=0.9u L=0.18u M=1
m12  blbar data net-_m11-pad3_ net-_m11-pad1_ pfet W=0.9u L=0.18u M=1
m5  bl databar net-_m5-pad3_ gnd nfet W=0.36u L=0.18u M=1
m9  blbar data net-_m10-pad1_ gnd nfet W=0.36u L=0.18u M=1
m6  net-_m5-pad3_ en gnd gnd nfet W=0.36u L=0.18u M=1
m10  net-_m10-pad1_ en gnd gnd nfet W=0.36u L=0.18u M=1
v5  net-_m7-pad1_ gnd  dc 1.8V
v1  data gnd pulse(0V 1.8V 0ns 1ns 1ns 20ns 40ns)
v2  en gnd pulse(0V 1.8V 0ns 1ns 1ns 50ns 100ns)
v6 net-_m11-pad1_ gnd  dc 1.8V
.tran 10e-12 300e-09 0e-09

* Control Statements 
.control
run
plot bl 
plot blbar
plot data
plot databar
plot enbar
plot en
.endc
.end
